US03969391
10 Parts of sulfuric acid is treated with 9 parts of 20% fuming sulfuric acid and allowed to stand at room temperature for 10 minutes. 1.25 Parts by volume of that solution then is added dropwise to 28.5 parts by volume of 1M lithium aluminum hydride in tetrahydrofuran. After the addition is complete, the temperature is maintained at -60° for 15 minutes and then allowed to rise to room temperature. The aluminum hydride solution so obtained is cooled to -60° and added rapidly to a solution of 6.92 parts of methyl 2-methoxy-4-hydroxy-5-oxocyclopent-1-eneheptanoate dissolved in 310 parts of redistilled tetrahydrofuran which is cooled to -40°. The temperature is lowered to -70° after the addition is complete and the reaction mixture is stirred at that temperature for 33/4 hours. Then 7.9 parts of methanol in 17.8 parts of tetrahydrofuran is added slowly and the temperature is allowed to rise to -20° at which time 120 parts by volume of a 1 N aqueous hydrochloric acid solution is added. The mixture is allowed to stand at about 4° for 16 hours and then the solvent is removed under reduced pressure. The aqueous residue which remains is diluted with ethyl acetate and the organic and aqueous layers separated. The organic layer is washed with water, potassium bicarbonate and water. Then it is dried over anhydrous sodium sulfate and the solvent is removed under reduced pressure to afford methyl 3-hydroxy-5-oxocyclopent-1-eneheptanoate.

reactant | methyl 2-methoxy-4-hydroxy-5-oxocyclopent-1-eneheptanoate | COC1=C(C(C(C1)O)=O)CCCCCCC(=O)OC | C14H22O5
reactant | methanol | CO | CH4O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 3-hydroxy-5-oxocyclopent-1-eneheptanoate | OC1C=C(C(C1)=O)CCCCCCC(=O)OC | C13H20O4
